US06759429B2
Under nitrogen atmosphere, to a solution of methyl terephthalaldehydate (10.0 g) in toluene (200 mL) were added p-toluenesulfonic acid monohydrate (130 mg) and 1,3-propanediol (5.56 g), and the mixture was stirred at 111° C. for 3.5 hours. The mixture was cooled to room temperature, washed twice with a NaHCO3 solution, and dried over MgSO4. The solvent was evaporated under reduced pressure to give crude methyl 4-(1,3-dioxan-2-yl)benzoate (14.2 g). To a solution of this compound (14.2 g) in THF (150 mL)-MeOH (150 mL) was added a 6N NaOH solution (50.8 mL), and the mixture was stirred at room temperature for 78 hours. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate, and thereto was added a 6N aqueous hydrochloric acid to adjust the pH value thereof to pH=2. The precipitated solid was collected by filtration to give 4-(1,3-dioxan-2-yl)benzoic acid (11.725 g, 93%).

reactant | methyl terephthalaldehydate | 10.0 g | COC(=O)C1=CC=C(C=C1)C=O | C9H8O3
reactant | 1,3-propanediol | 5.56 g | C(CCO)O | C3H8O2
reactant | MeOH | 150 mL | CO | CH4O
reactant | NaOH | 6N, 50.8 mL | [OH-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | p-toluenesulfonic acid monohydrate | 130 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(1,3-dioxan-2-yl)benzoic acid | 11.725 g, 93% | O1C(OCCC1)C1=CC=C(C(=O)O)C=C1 | C11H12O4
